US05162326
6-Ethoxycarbonylmethylthio-3-ethyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione
A mixture of 6-chloro-3-ethyl-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione (0.6 g), ethyl thioglycollate (0.13 ml) and potassium carbonate (0.19 g) in acetonitrile (10 ml) was heated under reflux for 10 hours with stirring. The reaction mixture was allowed to cool and the precipitate was removed by filtration. The filtrate was concentrated to dryness. The resulting residue was dissolved in methanol (15 ml) and 1N hydrochloric acid (1.5 ml), followed by stirring at room temperature for 7 hours. The reaction mixture was concentrated to dryness and then the residue was extracted with methylene chloride-water. The organic layer was washed with water, dried, and evaporated to dryness. The resulting residue was purified by column chromatography on silica gel to give pale yellow amorphous powders (0.15 g, 33%).

reactant | 6-chloro-3-ethyl-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.6 g | ClC1=CC(N(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC)=O | C39H31ClN6O2
reactant | ethyl thioglycollate | 0.13 ml | CCOC(=O)CS | C4H8O2S
reactant | potassium carbonate | 0.19 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 6-Ethoxycarbonylmethylthio-3-ethyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.15 g, 33% | C(C)OC(=O)CSC1=CC(N(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O)CC)=O | C24H24N6O4S
